** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_tb/Local_mirror_biasing_tb.sch
**.subckt Local_mirror_biasing_tb
I0 net7 GND 10u
V1 VDD GND 3.3
Vmeas1 net2 net1 0
.save i(vmeas1)
Vmeas2 net4 net3 0
.save i(vmeas2)
Vmeas3 net6 net5 0
.save i(vmeas3)
R1 VDD net2 1K m=1
R2 VDD net4 1K m=1
R3 VDD net6 1K m=1
x1 VDD net1 net3 net5 net7 GND net9 Biasing_network_with_local_mirros pmos_l_ref=0.4u pmos_w_ref=2u pmos_l_mir=0.4u pmos_w_mir=8u
+ nmos_l_ref_1=1u nmos_w_ref_1=1.5u nmos_nf_ref_1=1 nmos_l_mir_1=1u nmos_w_mir_1=7.5u nmos_nf_mir_1=5 nmos_l_ref_2=1u nmos_w_ref_2=1.5u
+ nmos_nf_ref_2=1 nmos_l_mir_2=1u nmos_w_mir_2=7.5u nmos_nf_mir_2=5 nmos_l_ref_3=1u nmos_w_ref_3=1.5u nmos_nf_ref_3=1 nmos_l_mir_3=1u
+ nmos_w_mir_3=6u nmos_nf_mir_3=4 nmos_l_ref_4=1u nmos_w_ref_4=1.5u nmos_nf_ref_4=1 nmos_l_mir_4=1u nmos_w_mir_4=15u nmos_nf_mir_4=10
Vmeas4 net8 net9 0
.save i(vmeas4)
R4 VDD net8 1K m=1
**** begin user architecture code

.include /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice diode_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice bjt_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical



* Add convergence aids
.option method=gear

.control

    * operating point
    op
    show

    write Local_mirror_biasing_tb.raw

    set appendwrite

    * Transient analysis to observe mixing operation
    tran 1n 0.01u
    write Local_mirror_biasing_tb.raw

.endc


**** end user architecture code
**.ends

* expanding   symbol:  src/design_xsch/Biasing_network_with_local_mirros.sym # of pins=7
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Biasing_network_with_local_mirros.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Biasing_network_with_local_mirros.sch
.subckt Biasing_network_with_local_mirros VDD I_out_1 I_out_2 I_out_3 I_BIAS VSS I_out_4   pmos_l_ref=0.4u pmos_w_ref=2u
+ pmos_l_mir=0.4u pmos_w_mir=8u  nmos_l_ref_1=1u nmos_w_ref_1=1.5u nmos_nf_ref_1=1 nmos_l_mir_1=1u nmos_w_mir_1=7.5u nmos_nf_mir_1=5
+  nmos_l_ref_2=1u nmos_w_ref_2=1.5u nmos_nf_ref_2=1 nmos_l_mir_2=1u nmos_w_mir_2=7.5u nmos_nf_mir_2=5  nmos_l_ref_3=1u nmos_w_ref_3=1.5u
+ nmos_nf_ref_3=1 nmos_l_mir_3=1u nmos_w_mir_3=6u nmos_nf_mir_3=4  nmos_l_ref_4=1u nmos_w_ref_4=1.5u nmos_nf_ref_4=1 nmos_l_mir_4=1u
+ nmos_w_mir_4=15u nmos_nf_mir_4=10

*.iopin VSS
*.iopin I_BIAS
*.opin I_out_1
*.opin I_out_2
*.opin I_out_3
*.iopin VDD
*.opin I_out_4
x_PMOS_mirror VDD net1 I_BIAS Local_mirror_pmos w_ref=pmos_w_ref l_ref=pmos_l_ref w_mir=pmos_w_mir l_mir=pmos_l_mir
x_NMOS_mirror_1 I_out_1 net1 VSS Local_mirror_nmos l_ref=nmos_l_ref_1 w_ref=nmos_w_ref_1 nf_ref=nmos_nf_ref_1 l_mir=nmos_l_mir_1
+ w_mir=nmos_w_mir_1 nf_mir=nmos_nf_mir_1
x_NMOS_mirror_2 I_out_2 net1 VSS Local_mirror_nmos l_ref=nmos_l_ref_2 w_ref=nmos_w_ref_2 nf_ref=nmos_nf_ref_2 l_mir=nmos_l_mir_2
+ w_mir=nmos_w_mir_2 nf_mir=nmos_nf_mir_2
x_NMOS_mirror_3 I_out_3 net1 VSS Local_mirror_nmos l_ref=nmos_l_ref_3 w_ref=nmos_w_ref_3 nf_ref=nmos_nf_ref_3 l_mir=nmos_l_mir_3
+ w_mir=nmos_w_mir_3 nf_mir=nmos_nf_mir_3
x_NMOS_mirror_4 I_out_4 net1 VSS Local_mirror_nmos l_ref=nmos_l_ref_4 w_ref=nmos_w_ref_4 nf_ref=nmos_nf_ref_4 l_mir=nmos_l_mir_4
+ w_mir=nmos_w_mir_4 nf_mir=nmos_nf_mir_4
.ends


* expanding   symbol:  src/design_xsch/Local_mirror_pmos.sym # of pins=3
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_pmos.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_pmos.sch
.subckt Local_mirror_pmos VDD I_out I_BIAS   l_ref=0.22u w_ref=0.28u nf_ref=1 l_mir=0.22u w_mir=0.28u nf_mir=1

*.iopin I_BIAS
*.iopin VDD
*.iopin I_out
XM_ref I_BIAS I_BIAS VDD VDD pfet_03v3 L=l_ref W=w_ref nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM_mir I_out I_BIAS VDD VDD pfet_03v3 L=l_mir W=w_mir nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / w_mir' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XC1 VDD I_BIAS cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=1
.ends


* expanding   symbol:  src/design_xsch/Local_mirror_nmos.sym # of pins=3
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_nmos.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_nmos.sch
.subckt Local_mirror_nmos I_out I_BIAS VSS   l_ref=0.22u w_ref=0.28u nf_ref=1 l_mir=0.22u w_mir=0.28u nf_mir=1
*.iopin VSS
*.iopin I_out
*.iopin I_BIAS
XM2 I_out I_BIAS VSS VSS nfet_03v3 L=l_mir W=w_mir nf=nf_mir ad='int((nf_mir+1)/2) * W/nf_mir * 0.18u' as='int((nf_mir+2)/2) * W/nf_mir * 0.18u'
+ pd='2*int((nf_mir+1)/2) * (W/nf_mir + 0.18u)' ps='2*int((nf_mir+2)/2) * (W/nf_mir + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0
+ sd=0 m=1
XM6 I_BIAS I_BIAS VSS VSS nfet_03v3 L=l_ref W=w_ref nf=nf_ref ad='int((W+1)/2) * W/nf_ref * 0.18u' as='int((nf_ref+2)/2) * W/nf_ref * 0.18u'
+ pd='2*int((nf_ref+1)/2) * (W/nf_ref + 0.18u)' ps='2*int((nf_ref+2)/2) * (W/nf_ref + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0
+ sd=0 m=1
XC1 VSS I_BIAS cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
